US05668145
A. 5-Amino-3-methyl-1-(2,4,6-trichloro-phenyl)-1H-pyrazole-4-carboxylicacid methyl ester
To a solution of 2-cyano-3-methyl-3-ethoxy-acrylic acid methyl ester (3.5 g, 0.021 mol) in glacial acetic acid (20 ml), 2,4,6-trichlorophenylhydrazine (4.38 g, 0.021 mol) was added with stirring, followed by triethylamine (2.0 ml, 1.46 g, 0.014 mol). The reaction was refluxed for 13 hours. Solvent removal in vacuo afforded a dark oil, which was dissolved in methylene chloride/water (100 ml of each). The separated organic phase was extracted with an equal volume of water, dried over anhydrous sodium sulfate, and concentrated in vacuo to an orange oil (5.8 g). Flash chromatography of the entire sample (silica gel, 40 micron mesh; elution with ethyl acetate/hexane=1:3 in volume) afforded the title compound (3.20 g) as a light-orange amorphous solid. Thin layer chromatography (TLC) Rf (silica gel plates, u.v. detection, ethyl acetate/hexane=1:3 in volume): 0.43.

reactant | 2-cyano-3-methyl-3-ethoxy-acrylic acid methyl ester | 0.021 mol, 3.5 g | COC(C(=C(OCC)C)C#N)=O | C8H11NO3
reactant | 2,4,6-trichlorophenylhydrazine | 0.021 mol, 4.38 g | ClC1=C(C(=CC(=C1)Cl)Cl)NN | C6H5Cl3N2
reactant | triethylamine | 0.014 mol, 2.0 ml, 1.46 g | C(C)N(CC)CC | C6H15N
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
solvent | methylene chloride water | C(Cl)Cl.O
product | 5-Amino-3-methyl-1-(2,4,6-trichloro-phenyl)-1H-pyrazole-4-carboxylicacid methyl ester | 3.20 g | COC(=O)C=1C(=NN(C1N)C1=C(C=C(C=C1Cl)Cl)Cl)C | C12H10Cl3N3O2
